US05243049
A mixture of 2(1H)-Oxo-quinoline-3,4-dicarboxylic acid (2 g), phosphorous oxychloride (4 g) and dry chloroform (30 mL) was heated at reflux for 2 h. The solvent and excess reagents are removed in vacuo and the residue was treated with ice water to afford Furo[3,4-c]quinoline-1,3,4(5H)-trione as a yellow solid.

reactant | 2(1H)-Oxo-quinoline-3,4-dicarboxylic acid | 2 g | C1=CC=C2C(=C1)C(=C(C(=O)N2)C(=O)O)C(=O)O | C11H7NO5
reactant | phosphorous oxychloride | 4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | Furo[3,4-c]quinoline-1,3,4(5H)-trione | C1(OC(C=2C(NC=3C=CC=CC3C21)=O)=O)=O | C11H5NO4
